US05364866
A stirred mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (3.9 g, 17.7 moles), N,N-dimethyl-4-bromopropoxy-3-methoxybenzamide (5.54 g, 17.5 mmoles) and K2CO3 (3 g) in acetonitrile (250 ml) was heated at reflux for one hour. At the end of the reaction, the insolubles were filtered and washed with dichloromethane. The solvent was removed on a rotary evaporator. The residue was purified by flash chromatography over a silica gel column. The product thus obtained as an oil weighed 7 . Crystallization from hot ethanol (45 ml) afforded analytically pure N,N-dimethyl-4-[3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]-3-methoxybenzamide, 3.95 g, 50%, as light yellow crystals, m.p.=126°-127° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 17.7 moles, 3.9 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | N,N-dimethyl-4-bromopropoxy-3-methoxybenzamide | 17.5 mmoles, 5.54 g | CN(C(C1=CC(=C(C=C1)OCCCBr)OC)=O)C | C13H18BrNO3
reactant | K2CO3 | 3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | N,N-dimethyl-4-[3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]-3-methoxybenzamide | CN(C(C1=CC(=C(C=C1)OCCCN1CCC(CC1)C1=NOC2=C1C=CC(=C2)F)OC)=O)C | C25H30FN3O4
